.SUBCKT IRF540N 1 2 3
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.58173 LAMBDA=0.00806114 KP=112.25
+CGSO=1.896e-05 CGDO=1e-11
RS 8 3 0.025918
D1 3 1 MD
.MODEL MD D IS=1.565e-11 RS=0.006486 N=1.1328 BV=100
+IBV=0.00025 EG=1.2 XTI=3.32496 TT=0
+CJO=1.16e-09 VJ=3.16363 M=0.840542 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.0130608
RG 2 7 6.45271
D2 4 5 MD1
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.30485e-09 VJ=0.899032 M=0.9 FC=1e-08
D3 0 5 MD2
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 2.35428e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS IRF540N

.SUBCKT DMC3025LDV_N 10 20 30 
M1 1 2 3 3 NMOS L=1E-006 W=1E-006
RD 10 1 0.01437 
RS 30 3 0.001 
RG 20 2 1.84 
CGS 2 3 4.55E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 4.1E-010 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL=3 VMAX=4.62E+005 ETA=0.0001 VTO=2.222 
+ TOX=6E-008 NSUB=1E+017 KP=35.61 KAPPA=1E-015 U0=400 
.MODEL DCGD D CJO=2.222E-010 VJ=0.2975 M=0.3378 
.MODEL DSUB D IS=2.278E-010 N=1.242 RS=0.007361 BV=35 CJO=4.795E-011 VJ=0.3436 M=0.5232 
.MODEL DLIM D IS=0.0001 
.ENDS

.SUBCKT BSS138DW 10 20 30 
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.9338 
RS 30 3 0.001 
RG 20 2 47 
CGS 2 3 1.906E-011 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 4.9E-011 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 8E+005 ETA = 1E-012 VTO = 1.422 
+ TOX = 6E-008 NSUB = 1E+016 KP = 0.5025 U0 = 400 KAPPA = 7.117 
.MODEL DCGD D CJO = 9.463E-012 VJ = 6.446 M = 0.9816 
.MODEL DSUB D IS = 7.582E-010 N = 1.586 RS = 0.1976 
+ BV = 65 CJO = 1.173E-011 VJ = 0.03727 M = 0.2868 
.MODEL DLIM D IS = 0.0001 
.ENDS

.SUBCKT DMC1016UPD_N 10 20 30 
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.003806 
RS 30 3 0.001 
RG 20 2 1.63 
CGS 2 3 1.22E-009 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 2.17E-009 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 5.378E+005 ETA = 0.001 VTO = 1.141 
+ TOX = 6E-008 NSUB = 1E+016 KP = 99.78 U0 = 400 KAPPA = 10 
.MODEL DCGD D CJO = 1.283E-009 VJ = 0.6 M = 0.6 
.MODEL DSUB D IS = 4.518E-010 N = 1.111 RS = 0.01242 BV = 20 CJO = 2.066E-015 VJ = 0.7549 M = 0.6 TT=1.436E-08 
.MODEL DLIM D IS = 0.0001 
.ENDS