.SUBCKT DMC3025LDV_P 10 20 30
M1 1 2 3 3 PMOS L=1E-006 W=1E-006
RD 10 1 0.01336
RS 30 3 0.001
RG 20 2 8.56
CGS 2 3 1.2E-009
EGD 12 30 2 1 1
VFB 14 30 0
FFB 2 1 VFB 1
CGD 13 14 6.5E-010
R1 13 30 1
D1 13 12 DLIM
DDG 14 15 DCGD
R2 12 15 1
D2 30 15 DLIM
DSD 10 3 DSUB
.MODEL PMOS PMOS LEVEL=3 U0=400 VMAX=1E+006 ETA=0.001
+ TOX=6E-008 NSUB=1E+016 KP=18.68 KAPPA=19.32 VTO=-1.634
.MODEL DCGD D CJO=2.5E-010 VJ=0.8 M=0.6
.MODEL DSUB D IS=2.291E-010 N=1.209 RS=0.01908 BV=34 CJO=2.5E-010 VJ=0.8 M=0.6 TT=5.17E-009
.MODEL DLIM D IS=0.0001
.ENDS

.SUBCKT DMC1016UPD_P 10 20 30 
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.006917 
RS 30 3 0.001 
RG 20 2 12.02 
CGS 2 3 2.686E-009 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 3.8E-009 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 91.34 KAPPA = 19.32 VTO = -0.7199 
.MODEL DCGD D CJO = 1.478E-009 VJ = 0.6094 M = 0.6 
.MODEL DSUB D IS = 2.978E-008 N = 1.118 RS = 0.03405 BV = 20 CJO = 3.453E-010 VJ = 0.6 M = 0.6726 
.MODEL DLIM D IS = 0.0001 
.ENDS